**.subckt LELO_FDA_MILLER VSS VDD VOUTP VOUTN IBIAS VINP VINN VCMREF
.subckt LELO_FDA_MILLER VSS VDD VOUTP VOUTN IBIAS VINP VINN VCMREF
* Two-stage FDA Miller + Choksi-Carley CMFB.  NMOS input pair.
* Design rule: I_stage2 > I_stage1 for p2 = gm5/CL > GBW.
*
* Bias plan (100 uA into IBIAS):
*   Stage-1 tail              :  50 uA  -> 25 uA / branch
*   Stage-1 PMOS loads        :  25 uA each (matched ratio of MPB)
*   Stage-2 PMOS CS           : 100 uA each (4x of M3 width)
*   Stage-2 NMOS sinks        : 100 uA each (CMFB-set via vctrl)
*   CMFB tails                :  50 uA each
* Total ~ 100+50+50+200+100 = 0.5 mA -> 0.9 mW @1.8V (margin to 3 mW spec).

* ---- Bias references ------------------------------------------------
XMNB   IBIAS  IBIAS  VSS    VSS  sky130_fd_pr__nfet_01v8 L=1 W=10 nf=1 m=1
XMPBN  pbias  IBIAS  VSS    VSS  sky130_fd_pr__nfet_01v8 L=1 W=2.5 nf=1 m=1
XMPB   pbias  pbias  VDD    VDD  sky130_fd_pr__pfet_01v8 L=1 W=10 nf=1 m=1

* ---- Stage-1 tail (150 uA) -------------------------------------------
XMT    ntail  IBIAS  VSS    VSS  sky130_fd_pr__nfet_01v8 L=1 W=15 nf=3 m=1

* ---- Stage-1 NMOS input pair (75 uA each) --------------------------
XM1    voutp1 VINP   ntail  VSS  sky130_fd_pr__nfet_01v8 L=0.5 W=150 nf=10 m=1
XM2    voutn1 VINN   ntail  VSS  sky130_fd_pr__nfet_01v8 L=0.5 W=150 nf=10 m=1

* ---- Stage-1 PMOS loads --------------------------------------------
XM3    voutp1 pbias  VDD    VDD  sky130_fd_pr__pfet_01v8 L=1 W=30 nf=3 m=1
XM4    voutn1 pbias  VDD    VDD  sky130_fd_pr__pfet_01v8 L=1 W=30 nf=3 m=1

* ---- Stage-2 NMOS CS at bottom (gate = voutp1 ~ 0.77V) -------------
XM5P   VOUTP  voutp1 VSS    VSS  sky130_fd_pr__nfet_01v8 L=0.5 W=80 nf=8 m=1
XM5N   VOUTN  voutn1 VSS    VSS  sky130_fd_pr__nfet_01v8 L=0.5 W=80 nf=8 m=1

* ---- Stage-2 PMOS sources at top (gate = VCTRL from CMFB) ----------
XM6P   VOUTP  vctrl  VDD    VDD  sky130_fd_pr__pfet_01v8 L=0.5 W=80 nf=4 m=1
XM6N   VOUTN  vctrl  VDD    VDD  sky130_fd_pr__pfet_01v8 L=0.5 W=80 nf=4 m=1

* ---- Miller compensation per side -----------------------------------
* Rz > 1/gm5 (~700) for LHP zero. Cc set so GBW ~ 130 MHz.
RZP    voutp1 nccp   1.5k
CCP    nccp   VOUTP  4p
RZN    voutn1 nccn   1.5k
CCN    nccn   VOUTN  4p

* ---- Choksi-Carley CMFB (50 uA tails) -------------------------------
XQTP   stailp IBIAS  VSS    VSS  sky130_fd_pr__nfet_01v8 L=1 W=5 nf=1 m=1
XQTN   stailn IBIAS  VSS    VSS  sky130_fd_pr__nfet_01v8 L=1 W=5 nf=1 m=1
XQVOP  vd     VOUTP  stailp VSS  sky130_fd_pr__nfet_01v8 L=0.5 W=20 nf=1 m=1
XQVCMP vctrl  VCMREF stailp VSS  sky130_fd_pr__nfet_01v8 L=0.5 W=20 nf=1 m=1
XQVON  vd     VOUTN  stailn VSS  sky130_fd_pr__nfet_01v8 L=0.5 W=20 nf=1 m=1
XQVCMN vctrl  VCMREF stailn VSS  sky130_fd_pr__nfet_01v8 L=0.5 W=20 nf=1 m=1
XQDP   vd     vd     VDD    VDD  sky130_fd_pr__pfet_01v8 L=1 W=20 nf=1 m=1
XQDN   vctrl  vd     VDD    VDD  sky130_fd_pr__pfet_01v8 L=1 W=20 nf=1 m=1
CCMC   vctrl  VSS    1p

* ---- Startup leak: 5 Mohm pull-down on voutp1/voutn1 -----------------
* Eliminates dead equilibrium where stage-1 outputs latch high.
* DC: ~0.15 uA leak (< 0.2% of 75 uA branch current).
* AC: 5 Mohm >> stage-1 output ro (~0.5 Mohm), so gain unaffected.
RSTUP  voutp1 VSS    5Meg
RSTUN  voutn1 VSS    5Meg
.ends
